US07601870B2
2-Cyclopentyl-N-(2,6-dimethyl-4-nitro-phenyl)-acetamide
2,6-Dimethyl-4-nitro-phenylamine (0.98 g) and cyclopentylacetyl chloride (0.99 mL) were dissolved in acetonitrile (10 mL) and heated to 150° C. for 5 minutes in a sealed microwave process vial. Water (10 mL) was added to the reaction mixture, and the product was collected by filtration and washed with water (20 mL) and heptane (20 mL) to furnish 1.45 g (89% yield) of the title compound as a yellow solid. 1H NMR (500 MHz, DMSO-d6): 1.24 (m, 2H), 1.54 (m, 2H), 1.63 (m, 2H), 1.79 (m, 2H), 2.25 (s, 6H), 2.27 (m, 1H), 2.36 (d, 2H), 7.98 (s, 2H), 9.56 (s, 1H).

reactant | 2,6-Dimethyl-4-nitro-phenylamine | 0.98 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)N | C8H10N2O2
reactant | cyclopentylacetyl chloride | 0.99 mL | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | Water | 10 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-Cyclopentyl-N-(2,6-dimethyl-4-nitro-phenyl)-acetamide | 1.45 g, 89% yield | C1(CCCC1)CC(=O)NC1=C(C=C(C=C1C)[N+](=O)[O-])C | C15H20N2O3
